US06265400B1
Part B. tert-Butyl [3-(4-cyanophenyl)isoxazolin-5(R)-yl]acetate
To a suspension of [3-(4-cyanophenyl)isoxazolin-5(R)-yl]acetic acid(500 mg, 2.17 mmol) in CH2Cl2 (20 ml) cooled in an ice-water bath was added a 1.6M solution of O-tert-butyl-N, N-diisopropylisourea, cat. CuCl(4 ml). The resulting mixture was stirred at rt for 48 hrs and then filted. The fitrate was concentrated and the residue dissolved in EtOAc. The EtOAc solution was washed with brine and then dried over Na2SO4. After concentration, the residue was chromatographed with a mixture of EtOAc and hexane to afford 600 mg of the product as a white solid(96%). 1H NMR(300 MHz, CDCl3) δ1.48(s, 9H), 2.60(dd, 1H), 2.60(dd, 1H), 3.16(dd, 1H), 3.52(dd, 1H), 5.169m, 1H0, 7.70(d, 2H), 7.78(d, 2H); MS(ESI) Calc. for (M−1)+: 285. Found: 285.

reactant | [3-(4-cyanophenyl)isoxazolin-5(R)-yl]acetic acid | 2.17 mmol, 500 mg | C(#N)C1=CC=C(C=C1)C1=NO[C@H](C1)CC(=O)O | C12H10N2O3
reactant | O-tert-butyl-N, N-diisopropylisourea | C(C)(C)(C)OC(N(C(C)C)C(C)C)=N | C11H24N2O
solvent | CH2Cl2 | 20 ml | C(Cl)Cl | CH2Cl2
catalyst | CuCl | 4 ml | Cl[Cu]
product | tert-Butyl [3-(4-cyanophenyl)isoxazolin-5(R)-yl]acetate | 600 mg, 96% | C(#N)C1=CC=C(C=C1)C1=NO[C@H](C1)CC(=O)OC(C)(C)C | C16H18N2O3
